US07247734B2
5-[4-(4-Methoxy-phenyl)-5-methyl-2-(2-trimethylsilanyl-ethoxymethyl)-2H-pyrazol-3-yl]-pyrimidin-2-ylamine was dissolved in anhydrous dichloromethane under nitrogen. 2M borontrichloride.dimethylether in dichloromethane (7 eq) was added dropwise, and all was stirred for 2 hours. The reaction mixture was added dropwise to sat. NaHCO3(aq) and extracted into dichloromethane. The organic phase was dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by preparative LC/MS to give 5-[4-(4-methoxy-phenyl)-5-methyl-2H-pyrazol-3-yl]-pyrimidin-2-ylamine as a solid.

reactant | 5-[4-(4-Methoxy-phenyl)-5-methyl-2-(2-trimethylsilanyl-ethoxymethyl)-2H-pyrazol-3-yl]-pyrimidin-2-ylamine | COC1=CC=C(C=C1)C1=C(N(N=C1C)COCC[Si](C)(C)C)C=1C=NC(=NC1)N | C21H29N5O2Si
reactant | borontrichloride | 2M | B(Cl)(Cl)Cl | BCl3
reactant | dimethylether | COC | C2H6O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 7 eq | ClCCl | CH2Cl2
product | 5-[4-(4-methoxy-phenyl)-5-methyl-2H-pyrazol-3-yl]-pyrimidin-2-ylamine | COC1=CC=C(C=C1)C1=C(NN=C1C)C=1C=NC(=NC1)N | C15H15N5O
